US08304419B2
Step B: 3-Chloro-N2-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-N5-[2-(1-pyrrolidinyl)ethyl]-1H-pyrrole-2,5-dicarboxamide
Methyl 3-chloro-5-({[2-(1-pyrrolidinyl)ethyl]amino}carbonyl)-1H-pyrrole-2-carboxylate (0.080 g, 0.268 mmol) was dissolved in THF and MeOH (2 mL of each). Potassium hydroxide (2 mL, 1 N) was added to the solution and heated to 60° C. After stirring overnight no reaction was observed. LiOH (2 mL, 1 N) was added and the reaction stirred at 60° C. overnight. The reaction mixture was evaporated to a solid and partitioned between EtOAc and 1 N HCl. The organic layer was separated, dried over MgSO4, filtered and evaporated to a solid. The solid was added to a solution of 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-chlorobenzonitrile (0.050 g, 0.161 mmol) and DIPEA (0.031 mL, 0.241 mmol) in DMF (2 mL). HATU (0.092 g, 0.241 mmol) was added to the mixture and the reaction stirred for 2 hours. The reaction mixture was partitioned between EtOAc and water and the layers separated. The organic layer was washed with 15% Na2CO3, dried over MgSO4 and evaporated. Purification was accomplished by reverse-phase HPLC (water/acetonitrile with 0.1% TFA) to afford the title compound (0.008 g, 9%) as a solid. 1H NMR (400 MHz, Acetone-d6) δ ppm 7.81-7.95 (m, 2H), 7.64 (t, 1H), 7.45-7.52 (m, 1H), 7.41-7.45 (m, 1H), 7.39 (d, 2H), 6.77 (s, 1H), 4.72 (d, 2H), 3.51 (q, 2H), 2.72-2.78 (m, 2H), 2.59-2.69 (m, 4H), 1.71-1.80 (m, 4H). LCMS: m/z 577.9 (M+1).

reactant | Methyl 3-chloro-5-({[2-(1-pyrrolidinyl)ethyl]amino}carbonyl)-1H-pyrrole-2-carboxylate | 0.268 mmol, 0.080 g | ClC1=C(NC(=C1)C(=O)NCCN1CCCC1)C(=O)OC | C13H18ClN3O3
reactant | Potassium hydroxide | 1 N, 2 mL | [OH-].[K+]
reactant | LiOH | 1 N, 2 mL | [Li+].[OH-]
reactant | 3-{[3-(aminomethyl)-6-chloro-2-fluorophenyl]oxy}-5-chlorobenzonitrile | 0.161 mmol, 0.050 g | NCC=1C(=C(C(=CC1)Cl)OC=1C=C(C#N)C=C(C1)Cl)F | C14H9Cl2FN2O
reactant | DIPEA | 0.241 mmol, 0.031 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.241 mmol, 0.092 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | THF | C1CCOC1 | C4H8O
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | MeOH | CO | CH4O
product | 3-Chloro-N2-({4-chloro-3-[(3-chloro-5-cyanophenyl)oxy]-2-fluorophenyl}methyl)-N5-[2-(1-pyrrolidinyl)ethyl]-1H-pyrrole-2,5-dicarboxamide | 0.008 g, 9% | ClC1=C(NC(=C1)C(=O)NCCN1CCCC1)C(=O)NCC1=C(C(=C(C=C1)Cl)OC1=CC(=CC(=C1)C#N)Cl)F | C26H23Cl3FN5O3
